US07378418B2
354G. Preparation of 8-Chloro-7-(4-chlorophenyl)-2H-[1,2,4]triazolo[4,3-b]pyridazin-3-one
To a solution of triphosgene (30.4 g, 102.4 mmol) in THF (300 mL), 1-[4-chloro-5-(4-chloro-phenyl)-pyridazin-3-yl]-hydrazine (6.52 g, 25.61 mmol) was added in portions over 15 min at room temperature. The mixture was stirred at room temperature for 4 h. After this time, the solution was poured into ice/water (500 mL), and the resulting light yellow solid was collected by filtration. The solid was rinsed with aqueous 0.5N HCl and water. It was then dried under vacuum to give the title compound, 2.81 g of 8-chloro-7-(4-chlorophenyl)-2H-[1,2,4]triazolo[4,3-b]pyridazin-3-one as a light yellow solid. HPLC: 2.78 min; MS, M+H=281.

reactant | triphosgene | 102.4 mmol, 30.4 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-[4-chloro-5-(4-chloro-phenyl)-pyridazin-3-yl]-hydrazine | 25.61 mmol, 6.52 g | ClC1=C(N=NC=C1C1=CC=C(C=C1)Cl)NN | C10H8Cl2N4
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 8-chloro-7-(4-chlorophenyl)-2H-[1,2,4]triazolo[4,3-b]pyridazin-3-one | 2.81 g | ClC=1C=2N(N=CC1C1=CC=C(C=C1)Cl)C(NN2)=O | C11H6Cl2N4O
